US07713994B2
4-{[4-(1,2,3,6-Tetrahydro-pyridin-2-yl)-phenylamino]-methylene}-6-thiophen-3-yl-4H-isoquinoline-1,3-dione
2-{4-[(1,3-Dioxo-6-thiophen-3-yl-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-phenyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (230 mg, ˜60-70% pure, ˜0.26-0.31 mmol) is mixed with H3PO4 (1 mL) in CH2Cl2 (1 mL) at room temperature. The resulting mixture is stirred until no starting material is detected by TLC. CH3CN and H2O and ice were then added to dilute the sample. The mixture is neutralized by NaOH and extracted with EtOAc. The EtOAc layer is washed with brine and dried. After removal of EtOAc, the residue is purified by flash chromatography to provide the title compound (80 mg, 78% for two steps). 1H NMR (400 MHz, DMSO) δ 12.53 (1H, d, J=12.8 Hz), 11.30 (1H, s), 9.02 (1H, d, J=12.4 Hz), 8.34 (1H, s), 8.21 (1H, s), 8.05 (1H, d, J=7.6 Hz), 7.44-7.85 (7H, m), 5.76-5.84 (2H, m), 3.77-3.81 (1H, m), 3.31-3.50 (2H, m), 2.09-2.21 (2H, m). MS (ESI): 428.1 (M+1)−1.

reactant | 2-{4-[(1,3-Dioxo-6-thiophen-3-yl-2,3-dihydro-1H-isoquinolin-4-ylidenemethyl)-amino]-phenyl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | ˜0.26-0.31 mmol, 230 mg | C(C)(C)(C)OC(=O)N1C(CC=CC1)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)C1=CSC=C1)=O)=O | C30H29N3O4S
reactant | H3PO4 | 1 mL | OP(=O)(O)O | H3O4P
reactant | CH3CN | CC#N | C2H3N
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 4-{[4-(1,2,3,6-Tetrahydro-pyridin-2-yl)-phenylamino]-methylene}-6-thiophen-3-yl-4H-isoquinoline-1,3-dione | 80 mg, 78% | N1C(CC=CC1)C1=CC=C(C=C1)NC=C1C(NC(C2=CC=C(C=C12)C1=CSC=C1)=O)=O | C25H21N3O2S
